US09034866B2
To a stirred mixture of 9-Bromo-4-methoxycarbonylmethyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (90 mg, 0.22 mmol) in TEA (5 mL) and DMF (1 mL) were added Pd(PPh3)Cl2 (15 mg, 0.021 mmol), PPh3 (17.2 mg, 0.065 mmol), CuI (8.3 mg, 0.043 mmol) and 2-methylbut-3-yn-2-ol (92 mg, 1.09 mmol). The reaction mixture was degassed with N2 and heated to 80° C. in a microwave reactor for 1.5 h. Then the mixture was cooled to room temperature, EtOAc was added. The mixture was filtered through Celite. The filtrate was washed with saturated brine, dried over Na2SO4, filtered, concentrated in vacuo, and purified by flash column chromatography (silica gel, EtOAc in hexane from 10% to 20%) to afford 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-methoxycarbonylmethyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (70 mg, 77%) as a light yellow solid. LC-MS (ESI & APCI): 416.7 (M+1).

reactant | 9-Bromo-4-methoxycarbonylmethyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.22 mmol, 90 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)CC(=O)OC | C16H14BrNO5S
reactant | PPh3 | 0.065 mmol, 17.2 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-methylbut-3-yn-2-ol | 1.09 mmol, 92 mg | CC(C)(C#C)O | C5H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.043 mmol, 8.3 mg | [Cu]I
product | 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-methoxycarbonylmethyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 70 mg, 77% | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)C#CC(C)(C)O)CC(=O)OC | C21H21NO6S
